US08912183B2
3-Chloro-6-{4-[3-((R)-2-methyl-pyrrolidin-1-yl)propoxy]phenyl}pyridazine (Example 1)
Pd(OAc)2 trimer (2.02 g, 9.0 mmol) and Ph3P (9.36 g, 35.6 mmol) were suspended in anhydrous THF (300 mL) and stirred vigorously under a nitrogen atmosphere for 10 min. 3,6-dichloropyridazine (26.82 g, 180 mmol) was added as a solid and stirring was continued for 10 min. (R)-2-Methyl-1-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propyl}-pyrrolidine (11.76 g, 34 mmol) was dissolved in a mixture of THF (200 mL) and EtOH (100 mL) and added dropwise to the reaction mixture. Saturated NaHCO3 solution (360 mL) was introduced. The reaction mixture was heated at 80° C. for 15 h, cooled and was evaporated to a residue, which was taken up in CH2Cl2 (300 mL) and washed with water and saturated NaHCO3 solution. The CH2Cl2phase was dried (Na2SO4) and evaporated. The product was obtained by ISCO chromatography on silica gel, eluting with EtOAc initially, then with a mixture of EtOAc/CH3OH (9:1) to provide the title compound (10.20 g, 90%) as a cream solid, m.p. 107-108.5° C.; 1H NMR (CDCl3) 1.10 (d, 3H, —CH3), 2.99 (m, 2H, —CH2—), 3.18 (m, 2H, —CH2—), 4.10 (m, 2H, —CH2—), 7.04 (d, 2H, Ar—H), 7.50 (d, 1H, C—H), 7.78 (d, 1H, C—H), 7.99 (d, 2H, Ar—H) (representative signals only); HPLC retention time 6.893 min. (elution solvents CH3CN w/0.1% TFA and H2O w/0.1% TFA; column: Agilent Zorbax RX-C8 4.6 mm×150 mm w/5 μm particle size; method: 10-100% CH3CN over 20 min., 100% CH3CN for an additional 4.5 minutes; flow rate: 1.6 mL/min; System: Agilent 1100 HPLC).

reactant | Ph3P | 35.6 mmol, 9.36 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3,6-dichloropyridazine | 180 mmol, 26.82 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | (R)-2-Methyl-1-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propyl}-pyrrolidine | 34 mmol, 11.76 g | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H32BNO3
reactant | NaHCO3 | 360 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-Chloro-6-{4-[3-((R)-2-methyl-pyrrolidin-1-yl)propoxy]phenyl}pyridazine | 10.20 g, 90% | ClC=1N=NC(=CC1)C1=CC=C(C=C1)OCCCN1[C@@H](CCC1)C | C18H22ClN3O
